data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_589889_0,[C:1](/[C:3](=[C:2](\[N:4]([H:11])[H:12])[O:5][H:8])[O:6][H:9])([O:7][H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C@:3]([C@:2]([N:4]([H:11])[H:12])([O:5][H:8])[H:10])([O:6][H:9])[O:7]1,62.82341750000725
MR_109946_0,[C:1]1([C:3]([C:5]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[H:10])([H:8])[C:2]([N:6]([H:11])[H:12])([H:9])[C:4]1([H:15])[H:16]>>[C:1](/[C:2](=[N:6]/[H:12])[H:9])([C:3]([C:5]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[H:10])([C:4]([H:11])([H:15])[H:16])[H:8],58.03935750002964
MR_283950_1,[C:1](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:15])(/[C:7](=[C:6](\[N:5]([H:9])[H:10])[H:13])[H:14])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:4]([C:2]([H:16])([H:17])[H:18])([C:8]([C:3]([H:19])([H:20])[H:21])([H:9])[H:15])[C:7]1(/[C:6](=[N:5]/[H:10])[H:13])[H:14],38.08422999997518
MR_294145_1,[C:1](/[C:2](=[N:5]\[O:4][H:7])[H:9])(/[C:3](=[N:6]/[H:8])[H:12])([H:10])[H:11]>>[C:1](=[C:2]([N:5](/[C:3](=[N:6]/[H:8])[H:12])[O:4][H:7])[H:9])([H:10])[H:11],62.95017250000825
MR_238489_1,[C:1]([C:3]([O:4][C:2]([O:5][H:8])=[O:6])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]([O:6][C:2](=[O:4])[O:5][H:8])=[O:7])([H:9])([H:10])[H:11],20.83739249996711
MR_616115_1,[C:1]1([N:7]([H:12])[H:13])([N:8]([H:14])[H:15])[N:5]([H:9])[C:3]([H:18])([H:19])[N:4]([H:10])[C:2]([H:16])([H:17])[N:6]1[H:11]>>[C:1](\[N:5]([C:3]([N:4]([C:2]([N:6]([H:11])[H:13])([H:16])[H:17])[H:10])([H:18])[H:19])[H:9])(=[N:7]/[H:12])[N:8]([H:14])[H:15],40.87283999996146
MR_644527_0,[C:1](/[C:3](=[N:6]\[H:9])[H:12])(/[N:5]=[N:4]/[N:2]([H:7])[H:8])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:3]([N:6]([H:7])[H:9])([H:12])[N:5]1/[N:4]=[N:2]/[H:8],53.40275999996507
MR_695784_2,[C:1](=[C:2]([N:3]([H:10])[H:11])/[C:4](=[N:7]\[H:12])[H:13])([O:5][H:9])[O:6][H:8]>>[C:1](=[C:2](\[N:3]([H:10])[H:11])[O:5][H:9])(\[C:4](=[N:7]/[H:12])[H:13])[O:6][H:8],2.314847500005328
MR_605966_2,[C:1]([O:7][C:3]1([N:2]([N:5]([H:10])[H:11])[H:9])[C:4](=[C:6]([H:16])[H:17])[N:8]1[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:7][C:4](/[C:3]([N:2]([N:5]([H:10])[H:11])[H:9])=[N:8]\[H:12])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15],61.63367749997917
MR_201048_2,[C:1]([C:2](=[C:4]([H:12])[H:13])[O:5][N:6]=[C:3]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4]([N:6]=[C:3]([H:10])[H:11])([H:12])[H:13])=[O:5])([H:7])([H:8])[H:9],55.797927499981625
MR_225488_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])[O:8][H:9])=[O:7]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([O:7][H:9])[C:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])[O:8]1,54.04908499997404
MR_496255_0,[C:1]1([C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([H:13])[H:14])([O:7][H:9])[N:8]1[H:12]>>[C:1]([C:3]([H:15])([H:16])[H:17])(/[C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([H:13])[H:14])=[N:8]\[H:12])([N:6]([H:10])[H:11])[O:7][H:9],36.31216999999055
MR_120136_1,[C:1]([C:3]([O:5][C:2]([N:4]([H:8])[H:9])=[O:6])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]([O:6][C:2]([N:4]([H:8])[H:9])=[O:5])=[O:7])([H:10])([H:11])[H:12],19.842805000017023
MR_366992_2,[C:1](/[C:3](=[N:2]/[N:4]([H:10])[H:11])[N:8]([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1](/[C:3]([N:2]([N:4]([H:10])[H:11])[C:5](=[C:6]([H:16])[H:17])[H:12])=[N:8]/[O:7][H:9])([H:13])([H:14])[H:15],68.0028024999855
MR_79074_0,[C:1](/[C:4](=[C:2]([C:3](=[N:7]\[O:5][H:8])/[H:10])\[O:6][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:4]1([H:11])[C:2]([O:6][H:9])=[C:3]([H:10])[N:7]1[O:5][H:8])([H:12])([H:13])[H:14],41.4595525000496
MR_171737_1,[N:1](/[C:2]([N:3]([H:9])[H:10])=[C:6](/[N:4]([H:11])[H:12])[H:14])([C:5](=[O:7])[H:13])[H:8]>>[N:1](=[C:2](/[N:3]([H:9])[H:10])[C@:6]([N:4]([H:11])[H:12])([C:5](=[O:7])[H:13])[H:14])\[H:8],45.34628750000991
MR_178888_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:10])([H:14])[H:15])=[O:7])([O:5][H:8])[O:6][H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:4]([H:14])[H:15])[O:7][H:10])([O:5][H:8])[O:6][H:9],72.36518250002902
MR_244667_1,[C:1](=[N:6][C:4]1([H:10])[C:3]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:7]/[H:9])[H:13])[O:8]1)([H:11])[H:12]>>[C:1](/[C:5](=[N:7]/[H:9])[H:13])(/[N:6]=[C:4](\[C:3]([C:2]([H:14])([H:15])[H:16])=[O:8])[H:10])([H:11])[H:12],50.433429999971366
MR_552229_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:5]([C:4]([H:19])([H:20])[H:21])=[N:9]/[H:11])/[C:6](=[N:8]/[O:7][H:10])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:6]([N:8](/[C:5]([C:4]([H:19])([H:20])[H:21])=[N:9]/[H:11])[O:7][H:10])[H:12],71.89267500000923
MR_330859_0,[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[O:5][O:6][H:7]>>[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])([O:5][N:4]([H:12])[H:13])[O:6][H:7],42.88523250001703
